Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ceftriaxone
 
Attending: ___.
 
Chief Complaint:
fever and cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old woman with no significant PMH who 
presented to the ED with fever and cough. She reports that she 
was in her usual state of health through ___ of last week 
(6 days ago), but on ___ started having a cough and fevers. 
She reports that her cough has intermittently been productive of 
clear phlegm. She also endorses an achiness in her left ear and 
a sense of muffling, as well as intermittent headache. She 
presented to her outpatient office 2 days ago and reports that 
she was diagnosed with a ruptured tympanic membrane and was 
given augmentin. She endorses taking 2 of the augmentin pills 
successfully but states that she was unable to take the rest of 
them due to difficulty swallowing large sized pills. She states
that this difficulty with pills is not a new issue for her. She 
has continued to have fevers and cough, and notes that her fever 
reached 104 earlier today. She also endorses some diarrhea 
earlier in her course that has now improved, and some chest pain 
with coughing that has also improved. She states that she has 
taken Mucinex and motrin, which may have helped slightly 
although she is unsure.  She notes that her ear pain is getting 
better.
She also notes minimal food intake in recent days due to her 
symptoms, although this is slightly improved now in the 
hospital. She denies sick contacts. 

She presented to the ED today due to her ongoing symptoms.  At 
the time of her presentation to the ED her temp was 100.4 but 
subsequently improved.  Her heart rates were initially in the 
140s, and after fluids improved to the 100s to 120s.  Blood 
pressure is 100s-130s /50s-80s.  She was satting 91% on room air 
and was placed on 2 L nasal cannula, with sats of 92 to 97%.  
Her labs were notable for WBC of 10.1, sodium 134, bicarb 19, 
negative flu, AST 58 ALT 33. A chest x-ray showed extensive 
right lower lobe consolidation compatible with pneumonia. She 
received fluids, Tylenol, ceftriaxone, azithromycin, and after 
the ceftriaxone she had flushing and tingling felt to be an 
anaphylactic reaction, for which she was given an EpiPen,
Benadryl, famotidine, and methylprednisolone 125 mg, with 
improvement in her symptoms. 

ROS: As per HPI, and 10 point ROS completed and otherwise 
negative.

 
Past Medical History:
None
 
Social History:
___
___ History:
No known infectious problems
 
Physical Exam:
Vital signs: (see above)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: 
L TM with erythema posteriorly and focal erythema in posterior
ear canal; no perforation noted, although anterior TM not
visualized completely
Nose without visible erythema, masses, or trauma. MMMs
CV: tachy, regular
RESP: bronchial breath sounds with +egophony in the R lower lung
field posteriorly
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric,
slightly reduced hearing for high and low pitch sounds on L side
PSYCH: pleasant, slightly restricted affect

 
Pertinent Results:
___ 11:25AM BLOOD WBC: 10.1* RBC: 4.59 Hgb: 13.9 Hct: 41.0
MCV: 89 MCH: 30.3 MCHC: 33.9 RDW: 12.4 RDWSD: 40.___ 
___ 11:25AM BLOOD Anisocy: 2+* Macrocy: 1+* RBC Mor: SLIDE
REVIEWED* 
___ 11:25AM BLOOD Glucose: 118* UreaN: 11 Creat: 0.8 Na:
134* K: 4.1 Cl: 97 HCO3: 19* AnGap: 18 
___ 11:25AM BLOOD ALT: 33 AST: 58* AlkPhos: 40 TotBili: 0.6 

___ 11:25AM BLOOD Lipase: 22 
___ 11:25AM BLOOD Albumin: 3.3* Calcium: 8.5 Phos: 2.8 
___ 11:35AM BLOOD Lactate: 1.8 
___ 01:35PM URINE Color: Colorless Appear: CLEAR Sp ___:
1.007 
___ 01:35PM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: 10* Bilirub: NEG Urobiln: NORMAL pH: 6.5
Leuks: NEG 
___ 01:35PM URINE UCG: NEGATIVE 
___ 11:30AM OTHER BODY FLUID FluAPCR: NEG FluBPCR: NEG  
   URINE CULTURE (Pending): 
 
CXR ___ (personally reviewed images and interpreted)-large
right lower lobe lung consolidation

EKG ___ (personally reviewed images and interpreted)-sinus
tachycardia, QTC ___ is a ___ year old woman with no significant PMH who 
presented to the ED with persistent fever and cough, found to 
have pneumonia on her chest x-ray, as well as likely L otitis 
media and ?TM perforation.

# Community-acquired pneumonia
# Sepsis (leukocytosis and tachycardia and fever)
Ms ___ presented with fever (104), cough x 6d , hypoxia, 
tachycardia (100-140). 
 Labs were notable for WBC 10.1, Na 134, HCO3 19, neg flu, AST 
58.  She had been prescribed Augmentin by outpatient provider 2 
days ago, but had only been able to take 2 of the pills due to 
the size of the pills.  Therefore her persistent symptoms did 
not necessarily reflect a failure of coverage.  However, while 
in the ED she had an allergic reaction to ceftriaxone requiring 
anaphylaxis treatment.  
   On arrival to floor, her O2 sats were in the low 90%, but 
thereafter, her O2 sats improved to 95-97% on RA. She received 
Levofloxacin prior to discharge.  Her WBC had normalized to she 
noted no significant chest pain or worsening dyspnea.  Continued 
to have cough.  
   Her Na normalized also after given IVF.  She was given 
prescription for Levofloxacin (250 mg tablets x 3 per day) due 
to her inability to tolerate large pills.  She was ambulatory 
and continued with incentive spirometry.  Urine Legionella 
antigen returned negative. 

#Suspected anaphylactic reaction to ceftriaxone
After receiving ceftriaxone the patient developed facial 
swelling, and reported burning itching and stinging of her 
hands, feet, face, neck, and arms.  She received epinephrine, 
methylprednisolone, Benadryl, and reported rapid improvement.  
She will complete a short course of prednisone for an additional 
3 days.  

#Suspected otitis media, possible tympanic membrane rupture
Patient reports that she was diagnosed with a tympanic membrane 
rupture 2 days ago in clinic.  I was unable to visualize the 
rupture, but there was significant erythema of the tympanic 
membrane.  She reports that her ear pain is improving and has 
minimal hearing deficit.  Discussed the case informally with ENT
tonight.  Antibiotics as per above (covering pneumonia and 
otitis media),
tentative 7 day course.  There was no worsening of ear pain or 
hearing.  Consider Follow-up with ENT in 1 to 3 months

#Transaminase elevation
Likely nonspecific in the setting of her infection and mild GI 
symptoms

GENERAL/SUPPORTIVE CARE:

# VTE prophylaxis: Ambulation
# Contacts/HCP/Surrogate and Communication: Boyfriend ___
___
# Code Status/ACP: Presumed full
# Disposition: d/c home today

> 30 mins spent on d/c related work
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 

 
Discharge Medications:
1.  LevoFLOXacin 750 mg PO DAILY 
RX *levofloxacin 250 mg 3 tablet(s) by mouth once a day Disp 
#*12 Tablet Refills:*0 
2.  PredniSONE 60 mg PO DAILY Duration: 3 Days 
RX *prednisone 20 mg 3 tablet(s) by mouth once a day Disp #*6 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RLL Pneumonia
Anaphylactic reaction to IV abx
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

   It was a pleasure looking after you. As you know, you were 
admitted for right lower lobe pneumonia - and likely drug 
reaction to the intravenous antibiotic (ceftriaxone). 

   You were observed in the hospital and did well on the 
antibiotic levofloxacin.  Please complete a 5-day course (4 more 
days) to help fully address the pneumonia.  Also to ensure that 
you do not have any residual effects from the allergic reaction, 
please complete 2 more days of prednisone (steroids). 

    In the future, it is best if you avoid the antibiotic class 
called cephalosporin altogether - to avoid the risk of allergic 
reaction.  We wish you quick recovery and good health.

Your ___ Team 
 
Followup Instructions:
___